### PR TITLE
[Merged by Bors] - feat: Lemmas relating `Polynomial.eraseLead` and `nextCoeff`.

### PR DESCRIPTION
**Pull request by Timeroot**
Some little theorems relating `eraseLead` and `nextCoeff` to each other. Also includes `monomial_sub` and `card_support_mul` which could be of independent interest.

---

- [x] depends on: #9580

[Open in Gitpod](https://gitpod.io/from-referrer/)

Part of #9052.

### CODE REVIEW

File: Mathlib/Data/Polynomial/Degree/Lemmas.lean [hunk 1]
```diff
@@ -315,6 +315,15 @@ theorem natDegree_map_eq_iff {f : R →+* S} {p : Polynomial R} :
   simp [h, h2, h3] -- simp doesn't rewrite in the hypothesis for some reason
   tauto
 
+theorem natDegree_pos_of_nz_nextCoeff (h : p.nextCoeff ≠ 0) : 0 < p.natDegree := by
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/Degree/Lemmas.lean:318]:
```suggestion
theorem natDegree_pos_of_nextCoeff_ne_zero (h : p.nextCoeff ≠ 0) : 0 < p.natDegree := by
```

File: Mathlib/Data/Polynomial/Degree/Lemmas.lean [hunk 2]
```diff
@@ -315,6 +315,15 @@ theorem natDegree_map_eq_iff {f : R →+* S} {p : Polynomial R} :
...
+  rw [nextCoeff] at h
+  by_cases hpz : p.natDegree = 0
+  · simp_all only [ne_eq, zero_le, ite_true, not_true_eq_false]
+  · apply Nat.zero_lt_of_ne_zero hpz
+
+theorem ne_zero_of_nz_nextCoeff (h : p.nextCoeff ≠ 0) : p ≠ 0 :=
+  ne_zero_of_natDegree_gt (natDegree_pos_of_nz_nextCoeff h)
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/Degree/Lemmas.lean:325]: That's just a trivial restatement of `nextCoeff 0 = 0`, right? Do you really need this?

File: Mathlib/Data/Polynomial/Degree/Lemmas.lean [hunk 3]
```diff
@@ -395,6 +404,19 @@ theorem leadingCoeff_comp (hq : natDegree q ≠ 0) :
   rw [← coeff_comp_degree_mul_degree hq, ← natDegree_comp, coeff_natDegree]
 #align polynomial.leading_coeff_comp Polynomial.leadingCoeff_comp
 
+/-- When there are no zero divisors, multiplying a polynomial by a nonzero constant leaves the
+    degree unchanged. -/
+theorem natDegree_mul_of_nonzero (ha : a ≠ 0) : natDegree (C a * p) = p.natDegree := by
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/Degree/Lemmas.lean:409]:
```suggestion
theorem natDegree_C_mul (ha : a ≠ 0) : natDegree (C a * p) = p.natDegree := by
```

**Review by YaelDillies — COMMENTED** [review]
and similar comments elsewhere

File: Mathlib/Data/Polynomial/Degree/Lemmas.lean (hunk 2 above)
Comment (Timeroot) [reply Mathlib/Data/Polynomial/Degree/Lemmas.lean:325]: Yup, oops

Comment (Timeroot) [reply Mathlib/Data/Polynomial/Degree/Lemmas.lean:325]: Actually - having it as a lemma is handy, since there isn't otherwise a `nextCoeff_zero` to just take `mt nextCoeff_zero`. I did golf it down to a proof term `ne_of_apply_ne nextCoeff h` which is not hard to write anywhere else. (I'm making this note partially for myself so that I can use `ne_of_apply_ne nextCoeff h` later; partially wondering if there should be a `nextCoeff_zero : nextCoeff (0:R[X]) = 0`.)

File: Mathlib/Data/Polynomial/Degree/Lemmas.lean (hunk 1 above)
Comment (Timeroot) [reply Mathlib/Data/Polynomial/Degree/Lemmas.lean]: Fixed this (and similar names) in new commit

File: Mathlib/Data/Polynomial/Degree/Lemmas.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Data/Polynomial/Degree/Lemmas.lean]: The power of the naming convention 😁

File: Mathlib/Data/Polynomial/Basic.lean [hunk 4]
```diff
@@ -1231,6 +1231,10 @@ theorem C_sub : C (a - b) = C a - C b :=
   RingHom.map_sub C a b
 #align polynomial.C_sub Polynomial.C_sub
 
+theorem monomial_sub (n : ℕ) : monomial n (a - b) = monomial n a - monomial n b := by
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/Basic.lean:1234]: Can you put that next to `Polynomial.monomial_neg` and also prove `Polynomial.monomial_zpow`?

File: Mathlib/Data/Polynomial/Coeff.lean [hunk 5]
```diff
@@ -7,6 +7,7 @@ import Mathlib.Data.Polynomial.Basic
 import Mathlib.Data.Finset.NatAntidiagonal
 import Mathlib.Data.Nat.Choose.Sum
 import Mathlib.Algebra.Regular.Pow
+import Mathlib.Algebra.MonoidAlgebra.Support
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/Coeff.lean:10]: Can you keep the list alphabetical?

File: Mathlib/Data/Polynomial/EraseLead.lean [hunk 6]
```diff
@@ -123,6 +124,21 @@ theorem eraseLead_card_support' {c : ℕ} (fc : f.support.card = c + 1) :
   eraseLead_card_support fc
 #align polynomial.erase_lead_card_support' Polynomial.eraseLead_card_support'
 
+theorem eraseLead_card_support_one (h : f ≠ 0) : f.eraseLead.support.card + 1 = f.support.card := by
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/EraseLead.lean:127]:
```suggestion
theorem card_support_eraseLead_add_one (h : f ≠ 0) : f.eraseLead.support.card + 1 = f.support.card := by
```
and can you also provide
```
@[simp]
theorem card_support_eraseLead : f.eraseLead.support.card = f.support.card - 1 := by
```

File: Mathlib/Data/Polynomial/EraseLead.lean [hunk 7]
```diff
@@ -208,6 +229,71 @@ theorem eraseLead_natDegree_le (f : R[X]) : (eraseLead f).natDegree ≤ f.natDeg
   · simp only [h, natDegree_zero, zero_le]
 #align polynomial.erase_lead_nat_degree_le Polynomial.eraseLead_natDegree_le
 
+theorem eraseLead_natDegree_of_nextCoeff (h : f.nextCoeff ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/EraseLead.lean:232]:
```suggestion
theorem natDegree_eraseLead_add_one_of_nextCoeff_ne_zero (h : f.nextCoeff ≠ 0) :
```
or just
```suggestion
theorem natDegree_eraseLead_add_one (h : f.nextCoeff ≠ 0) :
```
if you think that's too long

File: Mathlib/Data/Polynomial/EraseLead.lean [hunk 8]
```diff
@@ -208,6 +229,71 @@ theorem eraseLead_natDegree_le (f : R[X]) : (eraseLead f).natDegree ≤ f.natDeg
...
+    f.natDegree = f.eraseLead.natDegree + 1 := by
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/EraseLead.lean:233]:
```suggestion
    f.eraseLead.natDegree + 1 = f.natDegree := by
```

File: Mathlib/Data/Polynomial/EraseLead.lean [hunk 9]
```diff
@@ -208,6 +229,71 @@ theorem eraseLead_natDegree_le (f : R[X]) : (eraseLead f).natDegree ≤ f.natDeg
...
+      rwa [Nat.sub_add_cancel hpos] at this
+    linarith
+  have : coeff f (f.natDegree - 1) = coeff f.eraseLead (f.natDegree - 1) := by
+    apply Eq.symm
+    apply eraseLead_coeff_of_ne
+    exact Nat.pred_ne_self (Nat.ne_zero_iff_zero_lt.mpr hpos)
+  rw [nextCoeff, if_neg (natDegree_pos_of_nextCoeff_ne_zero h).ne.symm, this] at h
+  apply le_natDegree_of_ne_zero h
+
+theorem eraseLead_natDegree_of_nextCoeff_eq_zero (h : f.nextCoeff = 0) :
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/EraseLead.lean:250]:
```suggestion
theorem natDegree_eraseLead_le_of_nextCoeff_eq_zero (h : f.nextCoeff = 0) :
```

File: Mathlib/Data/Polynomial/EraseLead.lean [hunk 10]
```diff
@@ -208,6 +229,71 @@ theorem eraseLead_natDegree_le (f : R[X]) : (eraseLead f).natDegree ≤ f.natDeg
...
+    f.eraseLead.natDegree ≤ f.natDegree - 2  := by
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/EraseLead.lean:251]:
```suggestion
    f.eraseLead.natDegree ≤ f.natDegree - 2 := by
```
and check you don't have extraneous spaces anywhere else using a regex like `\S  ` (it will have false positives, but not many)

File: Mathlib/Data/Polynomial/EraseLead.lean [hunk 11]
```diff
@@ -208,6 +229,71 @@ theorem eraseLead_natDegree_le (f : R[X]) : (eraseLead f).natDegree ≤ f.natDeg
...
+    apply eraseLead_coeff_of_ne
+    intro hc
+    have h₄ := eraseLead_natDegree_le f
+    obtain ⟨d1, hd1⟩ := Nat.exists_eq_succ_of_ne_zero hdp
+    rw [hd1, Nat.succ_sub_succ_eq_sub, tsub_zero, hc, hd1] at h₄
+    exact not_le_of_gt (Nat.lt_succ_self d1) h₄
+  simp only [nextCoeff, hdp, ite_false] at h
+  exact hepz (leadingCoeff_eq_zero.mp (h ▸ h₃))
+
+theorem natDegree_ge_2_of_nextCoeff_eraseLead (h₁ : f.eraseLead ≠ 0) (h₂ : f.nextCoeff = 0) :
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/EraseLead.lean:268]:
```suggestion
theorem two_le_natDegree_of_nextCoeff_eraseLead (h₁ : f.eraseLead ≠ 0) (h₂ : f.nextCoeff = 0) :
```

File: Mathlib/Data/Polynomial/EraseLead.lean [hunk 12]
```diff
@@ -208,6 +229,71 @@ theorem eraseLead_natDegree_le (f : R[X]) : (eraseLead f).natDegree ≤ f.natDeg
...
+    have h₀ : f.eraseLead.natDegree = 0 :=
+      nonpos_iff_eq_zero.mp (tsub_eq_zero_of_le (le_refl 1) ▸ h₃ ▸ eraseLead_natDegree_le f)
+    rw [nextCoeff, h₃, if_neg one_ne_zero, tsub_self] at h₂
+    rw [eq_C_of_natDegree_eq_zero h₀, eraseLead_coeff_of_ne, h₂] at h₁
+    · simp at h₁
+    · simp [h₃]
+  · exact h₃
+
+theorem leadingCoeff_eraseLead_eq_nextCoeff (h : f.nextCoeff ≠ 0) :
+    f.nextCoeff = f.eraseLead.leadingCoeff := by
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/EraseLead.lean:285]:
```suggestion
theorem leadingCoeff_eraseLead_eq_nextCoeff (h : f.nextCoeff ≠ 0) :
    f.eraseLead.leadingCoeff = f.nextCoeff := by
```

File: Mathlib/Data/Polynomial/EraseLead.lean [hunk 13]
```diff
@@ -208,6 +229,71 @@ theorem eraseLead_natDegree_le (f : R[X]) : (eraseLead f).natDegree ≤ f.natDeg
...
+  have hd : f.natDegree = f.eraseLead.natDegree + 1 := eraseLead_natDegree_of_nextCoeff h
+  rw [leadingCoeff, nextCoeff]
+  simp only [coeff_natDegree, if_neg (natDegree_pos_of_nextCoeff_ne_zero h).ne]
+  rw [leadingCoeff, eraseLead_natDegree_of_nextCoeff h]
+  apply Eq.symm
+  apply Polynomial.eraseLead_coeff_of_ne
+  linarith
+
+theorem eraseLead_ne_zero_of_nextCoeff_ne_zero (h : f.nextCoeff ≠ 0) : f.eraseLead ≠ 0 :=
+  leadingCoeff_ne_zero.mp (leadingCoeff_eraseLead_eq_nextCoeff h ▸ h)
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/EraseLead.lean:295]: Maybe better as
```suggestion
theorem nextCoeff_eq_zero_of_eraseLead_eq_zero (h : f.eraseLead = 0) : f.nextCoeff = 0 :=
  leadingCoeff_ne_zero.mp (leadingCoeff_eraseLead_eq_nextCoeff h ▸ h)
```
and you can use `mt` to get back your original theorem.

**Review by YaelDillies — COMMENTED** [review]
Note that you will need to fix `test.RewriteSearch.Polynomial`. What happened is that you changed what lemmas `rw?` finds and the tests expect a specific output. Shouldn't be too hard, although maybe @semorrison will want to be notified of the change.

File: Mathlib/Data/Polynomial/EraseLead.lean (hunk 6 above)
Comment (Timeroot) [reply Mathlib/Data/Polynomial/EraseLead.lean:127]: The other one you suggest is pretty much the same as the existing
```
theorem eraseLead_card_support {c : ℕ} (fc : f.support.card = c) :
    f.eraseLead.support.card = c - 1 := by
```
and the proof would just be
```
@[simp]
theorem card_support_eraseLead : f.eraseLead.support.card = f.support.card - 1 :=
  eraseLead_card_support rfl
```
Does that still merit adding?

File: Mathlib/Data/Polynomial/Basic.lean (hunk 4 above)
Comment (Timeroot) [reply Mathlib/Data/Polynomial/Basic.lean:1234]: I'm not clear what `monomial_zpow` would be. There is `Polynomial.monomial_pow` already. `zpow` would presumably be for `(monomial n c)^(p : ℤ)`, but that isn't defined since polynomials don't allow for negative powers.

Such a lemma _could_ be defined for any `AddMonoidAlgebra F G` with `[Field F] [Group G]`, though?

File: Mathlib/Data/Polynomial/EraseLead.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Data/Polynomial/EraseLead.lean:127]: Can you just change `eraseLead_card_support`? This is a very weird statement.

**Comment by semorrison** [comment]
> Note that you will need to fix `test.RewriteSearch.Polynomial`. What happened is that you changed what lemmas `rw?` finds and the tests expect a specific output. Shouldn't be too hard, although maybe @semorrison will want to be notified of the change.

Thanks for the heads up, but hopefully this can be fixed without my further attention. :-)

File: Mathlib/Data/Polynomial/EraseLead.lean [hunk 14]
```diff
@@ -112,27 +112,31 @@ theorem eraseLead_support_card_lt (h : f ≠ 0) : (eraseLead f).support.card < f
...
+  cases h₁ : c
+  case zero =>
+    by_contra
+    exact h (card_support_eq_zero.mp h₁)
+  case succ =>
+    rw [eraseLead_support, card_erase_of_mem (natDegree_mem_support_of_nonzero h), ← hc, h₁]
+    rfl
+
+@[simp]
+theorem eraseLead_card_support_one : f.eraseLead.support.card = f.support.card - 1 := by
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/EraseLead.lean:127]:
```suggestion
theorem card_support_eraseLead_one : f.eraseLead.support.card = f.support.card - 1 := by
```

Comment (ericrbg) [reply Mathlib/Data/Polynomial/EraseLead.lean:127]: Really? I'd go for

```suggestion
theorem card_support_eraseLead : f.eraseLead.support.card = f.support.card - 1 := by
```

Comment (Timeroot) [reply Mathlib/Data/Polynomial/EraseLead.lean:127]: Just lemme know which!

Comment (YaelDillies) [reply Mathlib/Data/Polynomial/EraseLead.lean]: Sorry, my suggestion had a typo. eric's is correct.

Comment (Timeroot) [reply Mathlib/Data/Polynomial/EraseLead.lean]: Alright, changed to `card_support_eraseLead`.

File: Mathlib/Data/Polynomial/EraseLead.lean [hunk 15]
```diff
@@ -1,10 +1,11 @@
 /-
 Copyright (c) 2020 Damiano Testa. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Damiano Testa
+Authors: Damiano Testa, Alex Meiburg
 -/
 import Mathlib.Algebra.BigOperators.Fin
 import Mathlib.Data.Polynomial.Degree.Definitions
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/EraseLead.lean:7]:
```suggestion
```

File: Mathlib/Data/Polynomial/Coeff.lean [hunk 16]
```diff
@@ -3,10 +3,11 @@ Copyright (c) 2018 Chris Hughes. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Chris Hughes, Johannes Hölzl, Scott Morrison, Jens Wagemaker
 -/
-import Mathlib.Data.Polynomial.Basic
+import Mathlib.Algebra.MonoidAlgebra.Support
+import Mathlib.Algebra.Regular.Pow
 import Mathlib.Data.Finset.NatAntidiagonal
 import Mathlib.Data.Nat.Choose.Sum
-import Mathlib.Algebra.Regular.Pow
+import Mathlib.Data.Polynomial.Basic
```
Comment (YaelDillies) [inline Mathlib/Data/Polynomial/Coeff.lean:10]: Mind checking with `#minimize_imports` that this is all needed. I'm surprised you need so much more for a single lemma.

Comment (Timeroot) [reply Mathlib/Data/Polynomial/Coeff.lean]: It seems needed. Although `Mathlib.Data.Finset.NatAntidiagonal` wasn't needed anymore, so I cut that out.

**Comment by YaelDillies** [comment]
I've pushed a golf. Are you happy with it?

**Comment by Timeroot** [comment]
I mean I trust you! This golf looks like it changed many things, so I'm surprised... like, how did `Nilpotent` get mixed up in this? What's all this about `Monoid/WithTop` in there, is that something about how polynomial degrees are monoids with a bottom element...?

Anyway, I can't say I really follow, but I trust your judgement on the edits!

**Comment by YaelDillies** [comment]
I added a few missing `WithBot` lemmas for simp to handle `degree` better, and that incidentally golfed proofs in other files. The `WithBot` lemmas are now in a separate PR.

**Comment by YaelDillies** [comment]
If you are happy with it...

maintainer merge

File: Mathlib/Data/Polynomial/Coeff.lean [hunk 17]
```diff
@@ -3,10 +3,10 @@ Copyright (c) 2018 Chris Hughes. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Chris Hughes, Johannes Hölzl, Scott Morrison, Jens Wagemaker
 -/
+import Mathlib.Algebra.MonoidAlgebra.Support
+import Mathlib.Algebra.Regular.Pow
```
Comment (riccardobrasca) [inline Mathlib/Data/Polynomial/Coeff.lean:7]: I have the impression this imports quite a lot of stuff. Does it makes to move this result somewhere else?

File: Mathlib/Data/Polynomial/Degree/Definitions.lean [hunk 18]
```diff
@@ -1180,6 +1194,9 @@ theorem eq_C_of_natDegree_eq_zero (h : natDegree p = 0) : p = C (coeff p 0) :=
   eq_C_of_natDegree_le_zero h.le
 #align polynomial.eq_C_of_nat_degree_eq_zero Polynomial.eq_C_of_natDegree_eq_zero
 
+lemma natDegree_eq_zero {p : R[X]} : p.natDegree = 0 ↔ ∃ x, C x = p :=
```
Comment (riccardobrasca) [inline Mathlib/Data/Polynomial/Degree/Definitions.lean:1197]: This is a less precise version of [Polynomial.eq_C_coeff_zero_iff_natDegree_eq_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Polynomial/Degree/Definitions.html#Polynomial.eq_C_coeff_zero_iff_natDegree_eq_zero) below, so I don't see the point of having it.

File: Mathlib/Data/Polynomial/Degree/Lemmas.lean [hunk 19]
```diff
@@ -371,6 +377,24 @@ theorem natDegree_C_mul (a0 : a ≠ 0) : (C a * p).natDegree = p.natDegree := by
 set_option linter.uppercaseLean3 false in
 #align polynomial.nat_degree_C_mul Polynomial.natDegree_C_mul
 
+@[simp]
+lemma nextCoeff_C_mul_X_add_C (ha : a ≠ 0) (c : R) : nextCoeff (C a * X + C c) = c := by
+  rw [nextCoeff_of_natDegree_pos] <;> simp [ha]
+
+lemma natDegree_eq_one : p.natDegree = 1 ↔ ∃ a ≠ 0, ∃ b, C a * X + C b = p := by
```
Comment (riccardobrasca) [inline Mathlib/Data/Polynomial/Degree/Lemmas.lean:384]: Here `b` can be replaced by `p.coeff 0`, giving a more precise statement (of course `a` is `p.coeff 1`, but I am not sure we want `p.natDegree = 1 ↔ p.coeff 1 ≠ 0 ∧ p = ...`

File: Mathlib/Data/Polynomial/Degree/Definitions.lean (hunk 18 above)
Comment (ericrbg) [reply Mathlib/Data/Polynomial/Degree/Definitions.lean:1197]: These existentials are sometimes useful because then you can `subst` away the polynomial, whilst if you have it as `p.coeff 0`, you cannot

Comment (ericrbg) [reply Mathlib/Data/Polynomial/Degree/Definitions.lean:1197]: On the other hand, this should certainly be proved in terms of that as opposed to a separate proof

Comment (riccardobrasca) [reply Mathlib/Data/Polynomial/Degree/Definitions.lean:1197]: I see, fair enough!

File: Mathlib/Data/Polynomial/Degree/Lemmas.lean (hunk 19 above)
Comment (YaelDillies) [reply Mathlib/Data/Polynomial/Degree/Lemmas.lean:384]: Same here, this is for `subst` purposes.

File: Mathlib/Data/Polynomial/Coeff.lean (hunk 17 above)
Comment (Timeroot) [reply Mathlib/Data/Polynomial/Coeff.lean:7]: The only new import is `Mathlib.Algebra.MonoidAlgebra.Support`. (The `Regular.Pow` was already in the imports, they were just out of order so it got moved up a couple lines.) `MonoidAlgebra.Support` is only 150 lines, and its only import is `MonoidAlgebra.Basic` which is already being imported through `Polynomial.Basic` anyway. So the new amount of imported material is pretty minimal.

Comment (Timeroot) [reply Mathlib/Data/Polynomial/Coeff.lean:7]: Oh, or are you saying that -- unrelated to this PR -- the `Regular` stuff seems to drag in a lot of imports and so maybe should be pulled out somewhere else?

Comment (riccardobrasca) [reply Mathlib/Data/Polynomial/Coeff.lean:7]: I just noticed that `Mathlib.Algebra.Regular.Pow` starts with the sentence "Group powers and other definitions import a lot of the algebra hierarchy", and maybe we don't want `Mathlib.Data.Polynomial.Coeff` import a lot of stuff.

Comment (Timeroot) [reply Mathlib/Data/Polynomial/Coeff.lean]: I pushed a slight rewriting of the two relevant lemmas. Not really any longer, but it lets it just use Regular.Basic instead of the 'expensive' Regular.Pow

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
